* SKY130 Current-Starved Ring Oscillator — 3-stage with varactor loads
* Current-mirror bias: NMOS ref driven by Vctrl mirrors to PMOS current sources
* Separate starving transistor sizes for NMOS/PMOS paths
* MOS varactor loads on each stage for extended tuning range

.lib "sky130_models/sky130.lib.spice" tt

* Supply
Vdd vdd 0 1.8
Vss vss 0 0

* Control voltage (sets oscillation frequency)
Vctrl vctrl 0 0.9

* === Current mirror bias ===
* NMOS reference: Vctrl on gate sets current
* Diode-connected PMOS: generates pbias for all PMOS current sources
XMref_n pbias vctrl vss vss sky130_fd_pr__nfet_01v8 W={Wbn}u L={Lbn}u nf=1
XMref_p pbias pbias vdd vdd sky130_fd_pr__pfet_01v8 W={Wbp}u L={Lbp}u nf=1

* === Stage 1 ===
XMp1 n1 n3 starp1 vdd sky130_fd_pr__pfet_01v8 W={Wp}u L={Lp}u nf=1
XMn1 n1 n3 starn1 vss sky130_fd_pr__nfet_01v8 W={Wn}u L={Ln}u nf=1
XMsp1 starp1 pbias vdd vdd sky130_fd_pr__pfet_01v8 W={Wsp}u L={Lsp}u nf=1
XMsn1 starn1 vctrl vss vss sky130_fd_pr__nfet_01v8 W={Wsn}u L={Lsn}u nf=1
* Varactor load: NMOS cap — Cvar depends on Vctrl vs n1
XMvar1 n1 n1 vctrl vctrl sky130_fd_pr__nfet_01v8 W={Wvar}u L={Lvar}u nf=1

* === Stage 2 ===
XMp2 n2 n1 starp2 vdd sky130_fd_pr__pfet_01v8 W={Wp}u L={Lp}u nf=1
XMn2 n2 n1 starn2 vss sky130_fd_pr__nfet_01v8 W={Wn}u L={Ln}u nf=1
XMsp2 starp2 pbias vdd vdd sky130_fd_pr__pfet_01v8 W={Wsp}u L={Lsp}u nf=1
XMsn2 starn2 vctrl vss vss sky130_fd_pr__nfet_01v8 W={Wsn}u L={Lsn}u nf=1
* Varactor load
XMvar2 n2 n2 vctrl vctrl sky130_fd_pr__nfet_01v8 W={Wvar}u L={Lvar}u nf=1

* === Stage 3 (output) ===
XMp3 n3 n2 starp3 vdd sky130_fd_pr__pfet_01v8 W={Wp}u L={Lp}u nf=1
XMn3 n3 n2 starn3 vss sky130_fd_pr__nfet_01v8 W={Wn}u L={Ln}u nf=1
XMsp3 starp3 pbias vdd vdd sky130_fd_pr__pfet_01v8 W={Wsp}u L={Lsp}u nf=1
XMsn3 starn3 vctrl vss vss sky130_fd_pr__nfet_01v8 W={Wsn}u L={Lsn}u nf=1
* Varactor load
XMvar3 n3 n3 vctrl vctrl sky130_fd_pr__nfet_01v8 W={Wvar}u L={Lvar}u nf=1

* Output buffer
XMpout out n3 vdd vdd sky130_fd_pr__pfet_01v8 W=5u L=0.15u nf=1
XMnout out n3 vss vss sky130_fd_pr__nfet_01v8 W=2.5u L=0.15u nf=1

* Kick start (small cap imbalance)
Ckick n1 vss 1f

.options reltol=0.01 method=gear maxord=3

* === Measurements ===
* evaluate.py sweeps Vctrl and computes tuning range externally
.control
tran 0.5n 200n

* Measure frequency from steady-state cycles
meas tran trise1 when v(out)=0.9 rise=5
meas tran trise2 when v(out)=0.9 rise=6
let period = trise2 - trise1
let freq = 1 / period
echo "RESULT_FREQ_HZ" $&freq

* Power measurement
meas tran avg_idd avg i(Vdd) from=50n to=200n
let pwr = abs(avg_idd) * 1.8 * 1e6
echo "RESULT_POWER_UW" $&pwr

echo "RESULT_DONE"
.endc

.end
